US05846982
6-chloro-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
Beginning with 1.00 gm (6.6 mMol) 6-chloro-1H-indole and 1.6 mL (13.0 mMol) 1-methyl-4-piperidone, 1.7 gm (100%) of the title compound were recovered as a pale yellow solid.

reactant | 6-chloro-1H-indole | 6.6 mMol, 1.00 gm | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
reactant | 1-methyl-4-piperidone | 13.0 mMol, 1.6 mL | CN1CCC(CC1)=O | C6H11NO
product | 6-chloro-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 1.7 gm, 100% | ClC1=CC=C2C(=CNC2=C1)C=1CCN(CC1)C | C14H15ClN2
